US04367233
α-Phenyl-α-[(4,5,6,7-tetrahydrobenzothiazol-2-yl)thio]acetic acid
A methylene chloride solution of 5.13 g (0.03 m) 2-mercapto-4,5,6,7-tetrahydrobenzothiazole, α-bromophenylacetic acid and 6.0 g (0.06 m) triethylamine is heated to gentle reflux overnight. The solution is extracted twice with a dilute hydrochloric acid solution, once with water and is then dried over anhydrous MgSO4. The residual solid after solvent removal is recrystallized from acetonitrile. 7.0 g (77% yield) of title compound, melting at 118°-20° C., is obtained.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-mercapto-4,5,6,7-tetrahydrobenzothiazole | 5.13 g | SC=1SC2=C(N1)CCCC2 | C7H9NS2
reactant | α-bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
product | α-Phenyl-α-[(4,5,6,7-tetrahydrobenzothiazol-2-yl)thio]acetic acid | 7.0 g, 77% yield | C1(=CC=CC=C1)C(C(=O)O)SC=1SC2=C(N1)CCCC2 | C15H15NO2S2
